US09233981B1
N-[(4aR,6R,8aS)-8a-(2,4-Difluorophenyl)-6-formyl-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide (P3)
Triethylamine (16.7 mL, 120 mmol) was added in one rapid portion to a solution of N-[(4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-(hydroxymethyl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide (P1) (4.18 g, 10.0 mmol) in dichloromethane (200 mL) that was immersed in a room temperature water bath. After 5 minutes, anhydrous dimethyl sulfoxide (9.94 mL, 140 mmol) was rapidly added, followed immediately by solid sulfur trioxide pyridine complex (98%, 13.0 g, 80.0 mmol) in a single portion. The resulting solution was stirred at ambient temperature for 6.5 hours, then diluted with a 1:1 mixture of water and saturated aqueous sodium chloride solution (200 mL) and stirred for 10 minutes. The aqueous layer was extracted with dichloromethane (2×200 mL), and the combined organic layers were washed with water (100 mL), washed with saturated aqueous sodium chloride solution (100 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Purification via silica gel chromatography (Gradient: 0% to 100% ethyl acetate in heptane) gave the product as a white solid. Yield: 2.81 g, 6.75 mmol, 67%. LCMS m/z 414.9 [M−H+]. 1H NMR (400 MHz, CDCl3) δ 9.71 (s, 1H), 8.20 (br d, J=7 Hz, 2H), 7.50-7.56 (m, 1H), 7.36-7.49 (m, 3H), 6.86-6.99 (m, 2H), 4.23 (br d, J=12.1 Hz, 1H), 4.12 (dd, J=12.1, 2.9 Hz, 1H), 3.94 (d, J=12.5 Hz, 1H), 3.13-3.22 (m, 1H), 3.04 (dd, J=13.1, 4.1 Hz, 1H), 2.69 (dd, J=13.1, 2.9 Hz, 1H), 2.02-2.14 (m, 1H), 1.92-1.99 (m, 1H).

reactant | Triethylamine | 120 mmol, 16.7 mL | C(C)N(CC)CC | C6H15N
reactant | N-[(4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-(hydroxymethyl)-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide | 10.0 mmol, 4.18 g | FC1=C(C=CC(=C1)F)[C@@]12N=C(SC[C@@H]1C[C@@H](OC2)CO)NC(C2=CC=CC=C2)=O | C21H20F2N2O3S
reactant | dimethyl sulfoxide | 140 mmol, 9.94 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | sodium chloride | 200 mL | [Cl-].[Na+]
product | N-[(4aR,6R,8aS)-8a-(2,4-Difluorophenyl)-6-formyl-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide | FC1=C(C=CC(=C1)F)[C@@]12N=C(SC[C@@H]1C[C@@H](OC2)C=O)NC(C2=CC=CC=C2)=O | C21H18F2N2O3S
